US09359340B2
A solution of tert-butyl 4-((5R)-7-hydroxy-5,7-dimethyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate (28 mg, 0.080 mmol) in DCM (6 mL) was added to a 4.0M HCl solution in dioxane (1.4 mL, 5.63 mmol). The mixture was stirred at room temperature for 4 hours. A 4.0M HCl solution in dioxane (1.4 mL, 5.63 mmol) from a different bottle was added. The resulting mixture was stirred for 18 hours. The solvents were removed in vacuo to give (5R)-5,7-dimethyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol dihydrochloride. DIPEA (41.5 mg, 0.321 mmol) was added to a suspension of this (5R)-5,7-dimethyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol dihydrochloride (25.8 mg, 0.0803 mmol), 3-(tert-butoxycarbonykisopropyl)amino)-2-(4-chlorophenyl)propanoic acid (32.9 mg, 0.0964 mmol), and O-(1H-benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (36.6 mg, 0.0964 mmol) in CH2Cl2 (6 mL) at room temperature. The resulting mixture was stirred for 1 hour. The solvent was removed in vacuo. The residue was purified by a silica cartridge (5.0 g) eluted by EtOAc to give tert-butyl 2-(4-chlorophenyl)-3-(4-((5R)-7-hydroxy-5,7-dimethyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazin-1-yl)-3-oxopropyl(isopropyl)carbamate (46 mg, 100%) as a gel. LCMS (APCI+) [M−Boc+H] +472.2; Rt: 3.51 min.

reactant | tert-butyl 4-((5R)-7-hydroxy-5,7-dimethyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate | 0.080 mmol, 28 mg | OC1(C[C@H](C2=C1N=CN=C2N2CCN(CC2)C(=O)OC(C)(C)C)C)C | C18H28N4O3
reactant | HCl | 4.0M | Cl | ClH
reactant | dioxane | 5.63 mmol, 1.4 mL | O1CCOCC1 | C4H8O2
reactant | HCl | 4.0M | Cl | ClH
reactant | dioxane | 5.63 mmol, 1.4 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
product | (5R)-5,7-dimethyl-4-(piperazin-1-yl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-7-ol dihydrochloride | Cl.Cl.C[C@@H]1CC(C=2N=CN=C(C21)N2CCNCC2)(O)C | InChI=1S/C13H20N4O.2ClH/c1-9-7-13(2,18)11-10(9)12(16-8-15-11)17-5-3-14-4-6-17;;/h8-9,14,18H,3-7H2,1-2H3;2*1H/t9-,13?;;/m1../s1
